** ICL8038_Circuit **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: ACook2
* Thu, Jan 30, 2014 11:51:24 
*

*## Multisim Component R29 ##*
rR29 20 24 0.01 vresR29  
.model vresR29 r(  )

*## Multisim Component R28 ##*
rR28 20 25 100000 vresR28  
.model vresR28 r(  )

*## Multisim Component R27 ##*
rR27 22 20 100000 vresR27  
.model vresR27 r(  )

*## Multisim Component R26 ##*
* !!!BEGIN-INTERACT
*  : increment     ++++f4 ;
*  : setresistance ++++f6 ;
*  0.0             constant  mindval
*  100.0           constant  maxdval
*  0.0             VARIABLE  resistance
*  50.0            VARIABLE  setting
*  0.0             VARIABLE  setfactor
*  0.0             VARIABLE  zeroadj
*  0.0             VARIABLE  tresistance
*  0               VARIABLE  num_stored
*  0.0             VARIABLE  setresval
*  0	           VARIABLE  flag
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*      *flag 0 = if
*      LOAD_FICL_VARIABLES
*      ==>_*num_stored
*      ==>_*num_stored
*      *num_stored 0 > if
*         ==>_*setting 
*         ==>_*setresval
*         *setresval tresistance f./ ==>_*setfactor
*         *setresval SET_INSTANCE Resistor ::R R1  resistance
*         tresistance *setresval f.- SET_INSTANCE Resistor ::R R2  resistance
*      endif
*      1 ==>_*flag
*      endif
*      setresistance ==>_*tresistance
*      0.01 *setting f.* ==>_*zeroadj
*      *zeroadj PERCENT SET_ANIMATION_TEXT
*      0.0000001 0.9999999 *zeroadj f.min f.max  ==>_*setfactor
*      *setfactor *tresistance f.* resistance GRADUAL_CHANGE_AT_RUN
*      *setfactor tresistance f.* *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value                       SET_INSTANCE Resistor ::R R1  resistance
*    *tresistance  value f.-       SET_INSTANCE Resistor ::R R2  resistance
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
* !!!END-INTERACT
xR26 +12V 24 0  PotentiometerR26
.subckt PotentiometerR26 1 2 3
R1 1 2  1e-3
R2 2 3  1e-3
.ends

*## Multisim Component R25 ##*
* !!!BEGIN-INTERACT
*  : increment     ++++f4 ;
*  : setresistance ++++f6 ;
*  0.0             constant  mindval
*  100.0           constant  maxdval
*  0.0             VARIABLE  resistance
*  50.0            VARIABLE  setting
*  0.0             VARIABLE  setfactor
*  0.0             VARIABLE  zeroadj
*  0.0             VARIABLE  tresistance
*  0               VARIABLE  num_stored
*  0.0             VARIABLE  setresval
*  0	           VARIABLE  flag
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*      *flag 0 = if
*      LOAD_FICL_VARIABLES
*      ==>_*num_stored
*      ==>_*num_stored
*      *num_stored 0 > if
*         ==>_*setting 
*         ==>_*setresval
*         *setresval tresistance f./ ==>_*setfactor
*         *setresval SET_INSTANCE Resistor ::R R1  resistance
*         tresistance *setresval f.- SET_INSTANCE Resistor ::R R2  resistance
*      endif
*      1 ==>_*flag
*      endif
*      setresistance ==>_*tresistance
*      0.01 *setting f.* ==>_*zeroadj
*      *zeroadj PERCENT SET_ANIMATION_TEXT
*      0.0000001 0.9999999 *zeroadj f.min f.max  ==>_*setfactor
*      *setfactor *tresistance f.* resistance GRADUAL_CHANGE_AT_RUN
*      *setfactor tresistance f.* *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value                       SET_INSTANCE Resistor ::R R1  resistance
*    *tresistance  value f.-       SET_INSTANCE Resistor ::R R2  resistance
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
* !!!END-INTERACT
xR25 +12V 25 0  PotentiometerR25
.subckt PotentiometerR25 1 2 3
R1 1 2  1e-3
R2 2 3  1e-3
.ends

*## Multisim Component R21 ##*
* !!!BEGIN-INTERACT
*  : increment     ++++f4 ;
*  : setresistance ++++f6 ;
*  0.0             constant  mindval
*  100.0           constant  maxdval
*  0.0             VARIABLE  resistance
*  50.0            VARIABLE  setting
*  0.0             VARIABLE  setfactor
*  0.0             VARIABLE  zeroadj
*  0.0             VARIABLE  tresistance
*  0               VARIABLE  num_stored
*  0.0             VARIABLE  setresval
*  0	           VARIABLE  flag
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*      *flag 0 = if
*      LOAD_FICL_VARIABLES
*      ==>_*num_stored
*      ==>_*num_stored
*      *num_stored 0 > if
*         ==>_*setting 
*         ==>_*setresval
*         *setresval tresistance f./ ==>_*setfactor
*         *setresval SET_INSTANCE Resistor ::R R1  resistance
*         tresistance *setresval f.- SET_INSTANCE Resistor ::R R2  resistance
*      endif
*      1 ==>_*flag
*      endif
*      setresistance ==>_*tresistance
*      0.01 *setting f.* ==>_*zeroadj
*      *zeroadj PERCENT SET_ANIMATION_TEXT
*      0.0000001 0.9999999 *zeroadj f.min f.max  ==>_*setfactor
*      *setfactor *tresistance f.* resistance GRADUAL_CHANGE_AT_RUN
*      *setfactor tresistance f.* *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value                       SET_INSTANCE Resistor ::R R1  resistance
*    *tresistance  value f.-       SET_INSTANCE Resistor ::R R2  resistance
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
* !!!END-INTERACT
xR21 23 22 0  PotentiometerR21
.subckt PotentiometerR21 1 2 3
R1 1 2  1e-3
R2 2 3  1e-3
.ends

*## Multisim Component D1 ##*
dD1 21 20 1N4149__DIODE__1

*## Multisim Component C3 ##*
cC3 20 21 1e-009

*## Multisim Component R24 ##*
* !!!BEGIN-INTERACT
*  : increment  ++++f4 ;
*  : tresistance  ++++f6 ;
*  0.0          constant mindval
*  100.0        constant maxdval
*  tresistance  VARIABLE resistance
*  50.0         VARIABLE setting
*  0            VARIABLE num_stored
*  0.0          VARIABLE setresval
*  0.0          VARIABLE zeroadj
*  0.0          VARIABLE setfactor
*  0            VARIABLE flag
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*     *flag 0 = if
*        LOAD_FICL_VARIABLES
*        ==>_*num_stored
*        ==>_*num_stored
*        *num_stored 0 > if
*           ==>_*setting 
*           ==>_*setresval
*          *setresval tresistance f./ ==>_*setfactor
*          *setresval SET_INSTANCE Resistor ::R R1  resistance
*        endif
*      1 ==>_*flag
*      endif
*      0.01 *setting f.* ==>_*zeroadj
*      *zeroadj PERCENT SET_ANIMATION_TEXT
*      0.00001 0.999999 *zeroadj f.min f.max  ==>_*setfactor
*      *setfactor tresistance f.* resistance GRADUAL_CHANGE_AT_RUN
*      *setfactor tresistance f.* *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value SET_INSTANCE Resistor ::R R1  resistance
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
* !!!END-INTERACT
xR24 13 18 VariableResistorR24
.subckt VariableResistorR24 1 2
R1 1 2  50e-12
.ends

*## Multisim Component R23 ##*
rR23 19 20 10000000 vresR23  
.model vresR23 r(  )

*## Multisim Component R22 ##*
* !!!BEGIN-INTERACT
*  : increment     ++++f4 ;
*  : setresistance ++++f6 ;
*  0.0             constant  mindval
*  100.0           constant  maxdval
*  0.0             VARIABLE  resistance
*  50.0            VARIABLE  setting
*  0.0             VARIABLE  setfactor
*  0.0             VARIABLE  zeroadj
*  0.0             VARIABLE  tresistance
*  0               VARIABLE  num_stored
*  0.0             VARIABLE  setresval
*  0	           VARIABLE  flag
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*      *flag 0 = if
*      LOAD_FICL_VARIABLES
*      ==>_*num_stored
*      ==>_*num_stored
*      *num_stored 0 > if
*         ==>_*setting 
*         ==>_*setresval
*         *setresval tresistance f./ ==>_*setfactor
*         *setresval SET_INSTANCE Resistor ::R R1  resistance
*         tresistance *setresval f.- SET_INSTANCE Resistor ::R R2  resistance
*      endif
*      1 ==>_*flag
*      endif
*      setresistance ==>_*tresistance
*      0.01 *setting f.* ==>_*zeroadj
*      *zeroadj PERCENT SET_ANIMATION_TEXT
*      0.0000001 0.9999999 *zeroadj f.min f.max  ==>_*setfactor
*      *setfactor *tresistance f.* resistance GRADUAL_CHANGE_AT_RUN
*      *setfactor tresistance f.* *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value                       SET_INSTANCE Resistor ::R R1  resistance
*    *tresistance  value f.-       SET_INSTANCE Resistor ::R R2  resistance
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
* !!!END-INTERACT
xR22 -12V 19 +12V  PotentiometerR22
.subckt PotentiometerR22 1 2 3
R1 1 2  1e-3
R2 2 3  1e-3
.ends

*## Multisim Component R20 ##*
* !!!BEGIN-INTERACT
*  : increment     ++++f4 ;
*  : setresistance ++++f6 ;
*  0.0             constant  mindval
*  100.0           constant  maxdval
*  0.0             VARIABLE  resistance
*  50.0            VARIABLE  setting
*  0.0             VARIABLE  setfactor
*  0.0             VARIABLE  zeroadj
*  0.0             VARIABLE  tresistance
*  0               VARIABLE  num_stored
*  0.0             VARIABLE  setresval
*  0	           VARIABLE  flag
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*      *flag 0 = if
*      LOAD_FICL_VARIABLES
*      ==>_*num_stored
*      ==>_*num_stored
*      *num_stored 0 > if
*         ==>_*setting 
*         ==>_*setresval
*         *setresval tresistance f./ ==>_*setfactor
*         *setresval SET_INSTANCE Resistor ::R R1  resistance
*         tresistance *setresval f.- SET_INSTANCE Resistor ::R R2  resistance
*      endif
*      1 ==>_*flag
*      endif
*      setresistance ==>_*tresistance
*      0.01 *setting f.* ==>_*zeroadj
*      *zeroadj PERCENT SET_ANIMATION_TEXT
*      0.0000001 0.9999999 *zeroadj f.min f.max  ==>_*setfactor
*      *setfactor *tresistance f.* resistance GRADUAL_CHANGE_AT_RUN
*      *setfactor tresistance f.* *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value                       SET_INSTANCE Resistor ::R R1  resistance
*    *tresistance  value f.-       SET_INSTANCE Resistor ::R R2  resistance
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
* !!!END-INTERACT
xR20 -12V 17 0  PotentiometerR20
.subckt PotentiometerR20 1 2 3
R1 1 2  1e-3
R2 2 3  1e-3
.ends

*## Multisim Component R19 ##*
* !!!BEGIN-INTERACT
*  : increment     ++++f4 ;
*  : setresistance ++++f6 ;
*  0.0             constant  mindval
*  100.0           constant  maxdval
*  0.0             VARIABLE  resistance
*  50.0            VARIABLE  setting
*  0.0             VARIABLE  setfactor
*  0.0             VARIABLE  zeroadj
*  0.0             VARIABLE  tresistance
*  0               VARIABLE  num_stored
*  0.0             VARIABLE  setresval
*  0	           VARIABLE  flag
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*      *flag 0 = if
*      LOAD_FICL_VARIABLES
*      ==>_*num_stored
*      ==>_*num_stored
*      *num_stored 0 > if
*         ==>_*setting 
*         ==>_*setresval
*         *setresval tresistance f./ ==>_*setfactor
*         *setresval SET_INSTANCE Resistor ::R R1  resistance
*         tresistance *setresval f.- SET_INSTANCE Resistor ::R R2  resistance
*      endif
*      1 ==>_*flag
*      endif
*      setresistance ==>_*tresistance
*      0.01 *setting f.* ==>_*zeroadj
*      *zeroadj PERCENT SET_ANIMATION_TEXT
*      0.0000001 0.9999999 *zeroadj f.min f.max  ==>_*setfactor
*      *setfactor *tresistance f.* resistance GRADUAL_CHANGE_AT_RUN
*      *setfactor tresistance f.* *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value                       SET_INSTANCE Resistor ::R R1  resistance
*    *tresistance  value f.-       SET_INSTANCE Resistor ::R R2  resistance
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
* !!!END-INTERACT
xR19 15 0 14  PotentiometerR19
.subckt PotentiometerR19 1 2 3
R1 1 2  1e-3
R2 2 3  1e-3
.ends

*## Multisim Component R18 ##*
rR18 18 20 10000 vresR18  
.model vresR18 r(  )

*## Multisim Component R17 ##*
rR17 16 17 470000 vresR17  
.model vresR17 r(  )

*## Multisim Component R16 ##*
rR16 15 16 1500 vresR16  
.model vresR16 r(  )

*## Multisim Component R15 ##*
rR15 14 13 1500 vresR15  
.model vresR15 r(  )

*## Multisim Component R14 ##*
rR14 4 0 10000 vresR14  
.model vresR14 r(  )

*## Multisim Component R10 ##*
rR10 8 0 10000 vresR10  
.model vresR10 r(  )

*## Multisim Component R13 ##*
rR13 2 4 10000 vresR13  
.model vresR13 r(  )

*## Multisim Component R12 ##*
rR12 3 2 12000 vresR12  
.model vresR12 r(  )

*## Multisim Component R11 ##*
rR11 +12V 2 24000 vresR11  
.model vresR11 r(  )

*## Multisim Component C2 ##*
cC2 -12V 0 4.7e-006

*## Multisim Component C1 ##*
cC1 -12V 1 4.7e-009

*## Multisim Component R9 ##*
* !!!BEGIN-INTERACT
*  : increment     ++++f4 ;
*  : setresistance ++++f6 ;
*  0.0             constant  mindval
*  100.0           constant  maxdval
*  0.0             VARIABLE  resistance
*  50.0            VARIABLE  setting
*  0.0             VARIABLE  setfactor
*  0.0             VARIABLE  zeroadj
*  0.0             VARIABLE  tresistance
*  0               VARIABLE  num_stored
*  0.0             VARIABLE  setresval
*  0	           VARIABLE  flag
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*      *flag 0 = if
*      LOAD_FICL_VARIABLES
*      ==>_*num_stored
*      ==>_*num_stored
*      *num_stored 0 > if
*         ==>_*setting 
*         ==>_*setresval
*         *setresval tresistance f./ ==>_*setfactor
*         *setresval SET_INSTANCE Resistor ::R R1  resistance
*         tresistance *setresval f.- SET_INSTANCE Resistor ::R R2  resistance
*      endif
*      1 ==>_*flag
*      endif
*      setresistance ==>_*tresistance
*      0.01 *setting f.* ==>_*zeroadj
*      *zeroadj PERCENT SET_ANIMATION_TEXT
*      0.0000001 0.9999999 *zeroadj f.min f.max  ==>_*setfactor
*      *setfactor *tresistance f.* resistance GRADUAL_CHANGE_AT_RUN
*      *setfactor tresistance f.* *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value                       SET_INSTANCE Resistor ::R R1  resistance
*    *tresistance  value f.-       SET_INSTANCE Resistor ::R R2  resistance
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
* !!!END-INTERACT
xR9 8 12 -12V  PotentiometerR9
.subckt PotentiometerR9 1 2 3
R1 1 2  1e-3
R2 2 3  1e-3
.ends

*## Multisim Component R8 ##*
rR8 6 0 10000 vresR8  
.model vresR8 r(  )

*## Multisim Component R7 ##*
rR7 10 0 10000 vresR7  
.model vresR7 r(  )

*## Multisim Component R6 ##*
rR6 5 6 30000 vresR6  
.model vresR6 r(  )

*## Multisim Component R5 ##*
rR5 0 5 120000 vresR5  
.model vresR5 r(  )

*## Multisim Component R4 ##*
rR4 -12V 5 24000 vresR4  
.model vresR4 r(  )

*## Multisim Component R3 ##*
rR3 9 10 30000 vresR3  
.model vresR3 r(  )

*## Multisim Component R2 ##*
rR2 0 9 120000 vresR2  
.model vresR2 r(  )

*## Multisim Component R1 ##*
rR1 -12V 9 24000 vresR1  
.model vresR1 r(  )

*## Multisim Component U2 ##*
xU2_A 7 5 +12V -12V 6 TL071__OPAMP__1

*## Multisim Component U1 ##*
xU1_A 0 20 +12V -12V 21 TL071__OPAMP__1

*## Multisim Component U1 ##*
xU1_B 0 2 +12V -12V 4 TL071__OPAMP__1

*## Multisim Component U2 ##*
xU2_B 11 9 +12V -12V 10 TL071__OPAMP__1


.MODEL 1N4149__DIODE__1  D(Is=0.1p Rs=8 CJO=1p Tt=12n Bv=100 Ibv=0.1p )

*SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL071__OPAMP__1    1 2 3 4 5
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS


